US05994349
Ethyl 6-methyl-2, 4-dioxocyclohexane caboxylate (7b).
The same procedure used above is modified using an equivalent amount of anhydrous ethanol as the solvent and ethyl acetoacetate; yield 93.4 g (47%); mp 89-91° C. (from ethyl acetate: petroleum ether, bp 54° C.).

reactant | ethanol | C(C)O | C2H6O
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 6-methyl-2, 4-dioxocyclohexane caboxylate | CC1CC(CC(C1C(=O)OCC)=O)=O | C10H14O4
